US05231103
4-Hydroxyphenyl cyclohexyl ketone
A solution of 11 g (50.4 mmol) of 4-methoxyphenyl cyclohexyl ketone in 730 ml of dichloromethane p.a. is treated at -70° C. under argon with 101 ml of a 1M solution of boron tribromide (101 mmol) in dichloromethane and then left at room temperature for 18 h. It is concentrated in vacuo, the residue is taken up with 500 ml of ethanol and 80 ml of water and the mixture is heated under reflux for 3 h. After concentration in vacuo, the residue is taken up in dichloromethane, and the organic phase is washed with water, dried over sodium sulphate and concentrated to dryness in vacuo. The crude product is chromatographed on silica gel using dichloromethane/methanol (20:1).

reactant | 4-methoxyphenyl cyclohexyl ketone | 50.4 mmol, 11 g | C1(CCCCC1)C(=O)C1=CC=C(C=C1)OC | C14H18O2
reactant | boron tribromide | 101 mmol | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 730 ml | ClCCl | CH2Cl2
product | 4-Hydroxyphenyl cyclohexyl ketone | C1(CCCCC1)C(=O)C1=CC=C(C=C1)O | C13H16O2
